US03939196
Procedure 6. 1,3-bis(p-Methoxyphenyl)cyclobutane
1,3-bis(p-methoxyphenyl)cyclobutanol (13.2 g., 0.046 mole), 3.0 g. of 10% Pd/C, 1 ml. of 70% HClO4, and 100 ml. of 95% EtOH is shaken under 50 psi of H2 until hydrogen absorption is complete. The catalyst is removed by filtration and the filtrate is evaporated. A solution of the residue in ether is washed (5% NaHCO3, water) and dried (MgSO4). Evaporation of the ether yields a residue (11.4 g.) which is recrystallized (EtOH), affording 6.8 g (55%) of the desired intermediate.

reactant | 1,3-bis(p-methoxyphenyl)cyclobutanol | 0.046 mole, 13.2 g | COC1=CC=C(C=C1)C1(CC(C1)C1=CC=C(C=C1)OC)O | C18H20O3
reactant | hydrogen | [H][H] | H2
catalyst | Pd/C | [Pd] | Pd
solvent | EtOH | CCO | C2H6O
product | 1,3-bis(p-Methoxyphenyl)cyclobutane | 6.8 g, 55% | COC1=CC=C(C=C1)C1CC(C1)C1=CC=C(C=C1)OC | C18H20O2
